US04415572
2-Nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]cinnamic acid (12 g) was dissolved in 60 ml of concentrated hydrochloric acid and to the resulting solution was added dropwise a solution of 20 g of stannous chloride in 40 ml of concentrated hydrochloric acid at room temperature. After stirring for 2 hours crystals which precipitated were collected by filtration. The crystals thus-obtained was dissolved in 240 ml of methanol and the solution was neutralized with 10% aqueous sodium hydroxide solution to precipitate crystals, which then were collected by filtration. After concentrating the methanol solution, the residue was recrystallized from ethanol to give 6.3 g of 2-amino-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]cinnamic acid, m.p. 168°-170.5° C., pale yellow powders.

reactant | 2-Nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]cinnamic acid | 12 g | [N+](=O)([O-])C1=C(C=CC(=O)O)C=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C22H23N3O7
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 60 ml | Cl | ClH
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | methanol | 240 ml | CO | CH4O
product | 2-amino-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]cinnamic acid | 6.3 g | NC1=C(C=CC(=O)O)C=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C22H25N3O5
